US04350706
Preparation of N-(2,6-dichlorobenzoyl)-N'-[4-(1-phenylheptyloxy)phenyl]urea (100)
0.24 g of 55% sodium hydride dispersion in mineral oil were added to a solution of 1.63 g of N-(2,6-dichlorobenzoyl)-N'-(4-hydroxyphenyl)urea in 15 ml of dimethylformamide; the reaction mixture was stirred for 20 minutes with external cooling with water until a bright solution was obtained. 1.6 ml of 77% 1-phenylheptylbromide were added to this solution after which the reaction mixture was left to stand at room temperature for approximately 2 days. After pouring the reaction mixture on a mixture of ice water and petroleum ether a crystalline product was obtained which was sucked off, washed with successively water and little isopropanol and dried in air. The desired product was obtained in a yield of 0.87 g; melting point 146°-149° C. The product was identified by means of its NMR spectrum. The following compounds were prepared in a corresponding manner:

reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | N-(2,6-dichlorobenzoyl)-N'-(4-hydroxyphenyl)urea | 1.63 g | ClC1=C(C(=O)NC(=O)NC2=CC=C(C=C2)O)C(=CC=C1)Cl | C14H10Cl2N2O3
reactant | water | O | H2O
reactant | 1-phenylheptylbromide | 1.6 ml | C1(=CC=CC=C1)C(CCCCCC)Br | C13H19Br
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-(2,6-dichlorobenzoyl)-N'-[4-(1-phenylheptyloxy)phenyl]urea | ClC1=C(C(=O)NC(=O)NC2=CC=C(C=C2)OC(CCCCCC)C2=CC=CC=C2)C(=CC=C1)Cl | C27H28Cl2N2O3
